### PR TITLE
feat: bump to mathlib 4.34.0-rc2

### PR DESCRIPTION
**Pull request by lakesare**
This was an easy bump, no changes that I'm uncertain about were required I think.

- Mostly warnings about deprecations
- Some fixes (commits that say "fix")

### CODE REVIEW

File: Carleson/ForestOperator/Forests.lean [hunk 1]
```diff
@@ -43,8 +43,8 @@ lemma estimate_C7_4_5 {a : ℕ} (n : ℕ) (ha : 4 ≤ a) :
 lemma estimate_C7_4_6 {a : ℕ} (n : ℕ) (ha : 4 ≤ a) :
     C7_4_6 a n ≤ 2 ^ ((2 * 𝕔 + 9 + 𝕔 / 4) * a ^ 3) * 2 ^ (-(4 * n : ℝ)) := by
   simp_rw [C7_4_6, C7_2_1, C7_6_2, C2_1_3, ← mul_assoc]
-  conv_lhs => enter [1, 1, 1, 2]; norm_cast
-  conv_lhs => enter [1, 1, 2, 2]; norm_cast
+  conv_lhs => enter [1, 1, 1, 2]
```
Comment (grunweg) [inline Carleson/ForestOperator/Forests.lean]: Are these lines still needed?

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 2]
```diff
@@ -2005,7 +2005,7 @@ lemma le_C7_4_5 (a4 : 4 ≤ a) :
       * 2 ^ (-(Z * n : ℝ) / (4 * a ^ 2 + 2 * a ^ 3)) ≤ C7_4_5 a n := by
   rw [C2_0_5, C7_5_4, C7_4_5]
   conv_lhs => enter [1, 1, 1, 2]; norm_cast
-  conv_lhs => enter [1, 1, 2, 2]; norm_cast
+  conv_lhs => enter [1, 1, 2, 2]
```
Comment (grunweg) [inline Carleson/ForestOperator/LargeSeparation.lean]: Idem

**Review by grunweg — COMMENTED** [review]
Thanks! Just two minor comments.

**Comment by lakesare** [comment]
-awaiting-author

File: Carleson/ForestOperator/Forests.lean (hunk 1 above)
Comment (lakesare) [reply Carleson/ForestOperator/Forests.lean]: Thanks, removed

**Comment by grunweg** [comment]
Thanks!
